US07388061B2
To 7.5 g (0.04 mol) 2-isoamyl-2-isopropyl-1,3-propandiol, which was prepared according to the process described in synthetic example 63, was added 50 ml tetrahydrofuran, then added 9.7 ml (0.12 mol) pyridine with stirring. To the resulting homogenous mixture was slowly added 16.7 g(0.1 mol) cinnamoyl chloride. The mixture was stirred at room temperature for 1 hour, and heated refluxing for 4 hours. Upon completing the reaction, 50 ml water was added to dissolve the resulting salt. The mixture was extracted with ethyl acetate. The organic phase was separated, washed with saturated saline for two times, and dried over anhydrous sodium sulfate. The solvent was removed. Column chromatography gave 2-isoamyl-2-isopropyl-1,3-propandiol dicinnamate as a yellow viacous liquid, and the yield was 51%. 1HNMR: δ (ppm) 0.88(d, 6H, CH3 of isoamyl), 0.99(d, 6H, CH3 of isopropyl), 1.21(m, 2H, CH2 of isoamy), 1.47(m, 2H, CH2 of isoamyl), 1.51(m, 1H, CH of isoamyl), 1.96(m, 1H, CH of isopropyl), 4.26(m, 4H, CH2O of 1,3-propandiol), 6.45(d, 2H, CH linked to carbonyl), 7.26-7.70(m, 12H, ArH and ═CH—)

reactant | 2-isoamyl-2-isopropyl-1,3-propandiol | 0.04 mol, 7.5 g | C(CC(C)C)C(CO)(CO)C(C)C | C11H24O2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | pyridine | 0.12 mol, 9.7 ml | N1=CC=CC=C1 | C5H5N
reactant | cinnamoyl chloride | 0.1 mol, 16.7 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | water | 50 ml | O | H2O
product | 2-isoamyl-2-isopropyl-1,3-propandiol dicinnamate | yield was 51% | C(C=CC1=CC=CC=C1)(=O)OCC(COC(C=CC1=CC=CC=C1)=O)(C(C)C)CCC(C)C | C29H36O4
